US04597902
N-[2-[(4-Fluorophenyl)thio]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester
To a solution of 38.5 g (0.15 mole) of N-[2-(4-fluorophenylthio]ethyl-1-methyl-ethanamine and 15.5 g (0.15 mole) of triethylamine in 300 ml of methylene chloride which was cooled in an ice bath was added dropwise with stirring a solution of 23.5 g (0.15 mole) of phenyl chloroformate in 100 ml of methylene chloride over a 15 minute period. The resulting solution was stirred overnight at room temperature and extracted with 5% aqueous sodium hydroxide. The chloroform layer was dried and filtered and evaporated to give an oil residue which crystallized to a white solid. A portion of the solid was triturated with isopropyl ether and the mixture cooled under refrigeration. The solid was collected by filtration and dried in vacuo overnight at 80° C. White crystalline product, m.p. 53°-58° C. was obtained.

reactant | 2-(4-fluorophenylthio]ethyl-1-methyl-ethanamine | FC1=CC=C(C=C1)SCCC(C)(N)C | C11H16FNS
reactant | triethylamine | 0.15 mole, 15.5 g | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.15 mole, 23.5 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[2-[(4-Fluorophenyl)thio]ethyl]-N-(1-methylethyl)carbamic acid phenyl ester | C1(=CC=CC=C1)OC(N(C(C)C)CCSC1=CC=C(C=C1)F)=O | C18H20FNO2S
